US05665747
1,1-Bis(4-methyl-5-thiazolyl)-2,2,2-trifluoroethanol
(Trifluoromethyl)trimethylsilane (494 μl) was added to a stirred solution of bis(4-methyl-5-thiazolyl) ketone (500 mg) in anhydrous tetrahydrofuran (20 ml) at room temperature. After 1 hour, tetrabutylammonium fluoride (300 mg) was added. The mixture was stirred for 2 hours and then 3M hydrochloric acid was added. After 10 minutes the reaction mixture was adjusted to pH10 by the addition of 5M potassium hydroxide. The organic phase was separated and then worked-up in the usual manner to give the title compound.

reactant | (Trifluoromethyl)trimethylsilane | 494 μl | FC(F)(F)[Si](C)(C)C | C4H9F3Si
reactant | bis(4-methyl-5-thiazolyl) ketone | 500 mg | CC=1N=CSC1C(=O)C1=C(N=CS1)C | C9H8N2OS2
reactant | tetrabutylammonium fluoride | 300 mg | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | hydrochloric acid | 3M | Cl | ClH
reactant | pH10 | CC1=CC=C(C=C1)COC(=O)NNC(=O)C2=NC=CN=C2 | C14H14N4O3
reactant | potassium hydroxide | 5M | [OH-].[K+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 1,1-Bis(4-methyl-5-thiazolyl)-2,2,2-trifluoroethanol | CC=1N=CSC1C(C(F)(F)F)(O)C1=C(N=CS1)C | C10H9F3N2OS2
